chemprop_1/tests/data/regression/rxn/e2sn2/fold_0/aam_train.csv
AAM,act
[Br:1][C@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]#[N:42])([N+:11]([O-:12])[O:13])[H:21].[Cl-:2]>>[Br-:1].[Cl:2][C@@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]#[N:42])([N+:11]([O-:12])[O:13])[H:21],24.066933509037995
[Cl:1][C@:5]([C:4]([H:3])([H:31])[H:41])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23].[F-:2]>>[Cl-:1].[F:2][C@@:5]([C:4]([H:3])([H:31])[H:41])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23],15.830869209084998
[Br:1][C@:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]#[N:42])([N:11]([H:12])[H:13])[N+:21]([O-:22])[O:23].[H-:2]>>[Br-:1].[C:4](=[C:5](/[N:11]([H:12])[H:13])[N+:21]([O-:22])[O:23])(\[N:31]([H:32])[H:33])[C:41]#[N:42].[H:2][H:3],0.8183558077350026
[Br:1][C@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23].[F-:2]>>[Br-:1].[C:4](=[C:5](/[C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23])(\[C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43].[F:2][H:3],7.2047026733152535
[Br:1][C@:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[C:21]([H:22])([H:23])[H:24].[Cl-:2]>>[Br-:1].[C:4](=[C:5](/[C:11]#[N:12])[C:21]([H:22])([H:23])[H:24])(\[C:31]#[N:32])[C:41]([H:42])([H:43])[H:44].[Cl:2][H:3],22.291444588424756
[Cl-:2].[Cl:1][C@:5]([C:4]([H:3])([C:31]#[N:32])[H:41])([C:11]#[N:12])[N+:21]([O-:22])[O:23]>>[C:4](=[C:5](/[C:11]#[N:12])[N+:21]([O-:22])[O:23])(\[C:31]#[N:32])[H:41].[Cl-:1].[Cl:2][H:3],20.54561852299873
[Br:1][C@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([C:11]([H:12])([H:13])[H:14])[H:21].[F-:2]>>[Br-:1].[C:4](=[C:5](/[C:11]([H:12])([H:13])[H:14])[H:21])(\[N+:31]([O-:32])[O:33])[H:41].[F:2][H:3],8.768788670386492
[Cl-:2].[F:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24]>>[Cl:2][C@@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24].[F-:1],47.14663494111017
[Cl:1][C:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[Cl-:1].[H:2][C:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24],11.61044841102938
[F:1][C@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]([H:42])([H:43])[H:44])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23].[H-:2]>>[F-:1].[H:2][C@@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]([H:42])([H:43])[H:44])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23],16.790595276691434
[F:1][C@:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([H:11])[N+:21]([O-:22])[O:23].[H-:2]>>[F-:1].[H:2][C:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([H:11])[N+:21]([O-:22])[O:23],1.232233050129576
[Cl-:2].[F:1][C@:5]([C:4]([H:3])([H:31])[N:41]([H:42])[H:43])([C:11]#[N:12])[N+:21]([O-:22])[O:23]>>[Cl:2][C@@:5]([C:4]([H:3])([H:31])[N:41]([H:42])[H:43])([C:11]#[N:12])[N+:21]([O-:22])[O:23].[F-:1],33.40452633234384
[Br:1][C@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([H:11])[C:21]([H:22])([H:23])[H:24].[F-:2]>>[Br-:1].[C:4](=[C:5](/[H:11])[C:21]([H:22])([H:23])[H:24])(\[C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43].[F:2][H:3],16.596525626644482
[F:1][C:5]([C:4]([H:3])([H:31])[H:41])([C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23].[H-:2]>>[F-:1].[H:2][C:5]([C:4]([H:3])([H:31])[H:41])([C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23],8.248093192489392
[Cl-:2].[Cl:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[H:41])([C:11]#[N:12])[N:21]([H:22])[H:23]>>[C:4](=[C:5](/[C:11]#[N:12])[N:21]([H:22])[H:23])(\[C:31]([H:32])([H:33])[H:34])[H:41].[Cl-:1].[Cl:2][H:3],31.09629569832452
[Br:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[C:21]([H:22])([H:23])[H:24].[Cl-:2]>>[Br-:1].[C:4](=[C:5]([C:11]#[N:12])[C:21]([H:22])([H:23])[H:24])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44].[Cl:2][H:3],25.309473027368423
[Br-:2].[Br:1][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([H:11])[H:21]>>[Br-:1].[Br:2][H:3].[C:4](=[C:5]([H:11])[H:21])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43],25.489511556865672
[Cl-:2].[Cl:1][C@:5]([C:4]([H:3])([H:31])[H:41])([H:11])[C:21]#[N:22]>>[C:4](=[C:5]([H:11])[C:21]#[N:22])([H:31])[H:41].[Cl-:1].[Cl:2][H:3],38.76087377879035
[Cl-:2].[Cl:1][C:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[C:21]#[N:22]>>[C:4](=[C:5]([C:11]#[N:12])[C:21]#[N:22])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44].[Cl-:1].[Cl:2][H:3],19.373358615577324
[Br-:2].[Br:1][C:5]([C:4]([H:3])([H:31])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24]>>[Br-:1].[Br:2][C:5]([C:4]([H:3])([H:31])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24],37.64569798608316
[Cl-:2].[Cl:1][C@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[C:21]#[N:22]>>[Cl-:1].[Cl:2][C@@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[C:21]#[N:22],31.249949901314867
